US08604029B2
A mixture of 1-(4-nitrophenyl)-4-piperidone (0.6 g, 2.7 mmol), ethylene glycol (0.3 mL, 5.4 mmol) and p-toluenesulfonic acid (0.1 g in toluene (20 mL) was heated at reflux in a Dean-Stark apparatus until no more water accumulation occurred. The reaction was evaporated to dryness and the residue partitioned between ethyl acetate and water. The organic layer was separated and washed with water then brine and dried over sodium sulfate. Concentration under reduced pressure afforded 8-(4-nitrophenyl)-1,4-dioxa-8-aza-spiro[4,5]decane (0.48 g, 66%).

reactant | 1-(4-nitrophenyl)-4-piperidone | 2.7 mmol, 0.6 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | ethylene glycol | 5.4 mmol, 0.3 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 8-(4-nitrophenyl)-1,4-dioxa-8-aza-spiro[4,5]decane | 0.48 g, 66% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C13H16N2O4
